********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
*Jun 19, 2017
*ECN S17-0924, Rev. A
*File Name: SiRC10DP_PS.txt and SiRC10DP_PS.lib
*This document is intended as a SPICE modeling guideline and does not
*constitute a commercial product datasheet. Designers should refer to the
*appropriate datasheet of the same number for guaranteed specification
*limits.
.SUBCKT SiRC10DP D G S 
X1 D G S SiRC10DP_nm 
X2 S D   SiRC10DP_schottky 
.ENDS SiRC10DP 
.SUBCKT SiRC10DP_nm D G S 
M1 3 GX S S NMOS W= 412500u L= 0.30u 
M2 S GX S D PMOS W= 412500u L= 0.83u 
R1 D 3 2.490e-03 TC=3.500e-03,1.008e-05
CGS GX S 1.762e-09 
CGD GX D 1.006e-12 
RG G GY 1m 
RTCV 100 S 1e6 TC=1.072e-05,-3.142e-06
ETCV GX GY 100 200 1 
ITCV S 100 1u 
VTCV 200 S 1 
**************************************************************** 
.MODEL NMOS NMOS ( LEVEL = 3 TOX = 5e-8 
+ RS = 0 KP = 1.387e-04 NSUB = 9.208e+16 
+ KAPPA = 1.189e-01 NFS = 4.050e+11 
+ LD = 0 IS = 0 TPG = 1    )
*************************************************************** 
.MODEL PMOS PMOS ( LEVEL = 3 TOX = 5e-8 
+NSUB = 1.297e+17 IS = 0 TPG = -1    )
**************************************************************** 
.ENDS SiRC10DP_nm 
.subckt SiRC10DP_schottky 7 5 
d1 7 5 sdsm 
d2 7 5 sdlg 
d3 7 4 sdrev 
d4 5 4 sdblk 
.MODEL sdsm d (IS = 9.990e-10 N = 1.308e+00 EG = 1.016e+00 
+XTI = 2.792e+00 RS = 1.458e-03 TRS1 = 6.511e-04 )
.MODEL sdlg d (IS = 1.014e-05 N = 1.132e+00 EG = 4.900e-01 
+XTI = 1.270e+00 RS = 2.605e-02 TRS1 = 2.920e-03
+VJ = 5.000e+00 CJO = 2.933e-09 M = 1.031e+00 
+TT = 2.000e-07 ) 
.MODEL sdrev d (IS = 5.96e-06 N = 3.902e+00 EG = 2.000e+00 
+XTI = 1.943e+01 ) 
.MODEL sdblk d (IS = 1e-11 N=1) 
.ends SiRC10DP_schottky 
